US07691891B2
4-Amino-4′-trifluoromethyl-biphenyl-3-carbonitrile:
To dimethoxyethane (100 mL) and water (50 mL) was added 2-amino-5-bromo-benzonitrile (8.1 g), 4-trifluoromethyl-phenyl-boronic acid (8.6 g) and potassium carbonate (18.7 g), nitrogen was bobbled through the mixture for 10 minutes. Under a nitrogen atmosphere was bis(triphenyl-phosphine)palladium (II) chloride (0.3 g) added, the reaction mixture was heated at reflux overnight, then cooled to room temperature and added water (150 mL). The mixture was extracted with ethyl acetate, the organic phase was washed with water (50 mL) and brine (50 mL), then dried with magnesium sulfate and evaporated to an oil. The product was purified by column chromatography. Yield 8.36 g of white powder. Similarly was made:

reactant | dimethoxyethane | 100 mL | C(OC)COC | C4H10O2
reactant | 2-amino-5-bromo-benzonitrile | 8.1 g | NC1=C(C#N)C=C(C=C1)Br | C7H5BrN2
reactant | 4-trifluoromethyl-phenyl-boronic acid | 8.6 g | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | potassium carbonate | 18.7 g | C([O-])([O-])=O.[K+].[K+]
catalyst | bis(triphenyl-phosphine)palladium (II) chloride | 0.3 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
solvent | water | 150 mL | O | H2O
solvent | water | 50 mL | O | H2O
product | 4-Amino-4′-trifluoromethyl-biphenyl-3-carbonitrile | NC1=C(C=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)C#N | C14H9F3N2
